US07105544B2
N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 121 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.94–7.72 (br, 1H), 7.48–6.84 (m, 7H), 6.75 (d, 1H, J=7.2 Hz), 6.68–6.55 (br, 1H), 3.25–3.05 (m, 4H), 2.58–2.39 (m, 3H), 2.33–2.15 (m, 2H), 2.00–1.48 (m, 15H), 1.13–1.01 (m, 2H), 0.93–0.73 (m, 2H); ESMS m/e: 492.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-[3-(4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINYL)PROPYL]-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE | C1(CC1)C(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)F | C30H38FN3O2
